Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Coronary angiography with ___ ___

 
History of Present Illness:
Mr. ___ is a ___ yo M with PMH significant for CAD s/p 5 stents
(last ___ presenting as transfer from ___ after
experiencing chest pressure.

Patient was in his normal state of health until the evening 
prior
to admission when he began to experience a severe "chest
pressure" at rest with radiation to shoulders, neck and 
bilateral
arms. His chest pain was not associated with any shortness of
breath, palpitations, diaphoresis, nausea, or vomiting. The pain
was persistent, ultimately prompting his presentation to the ED,
though was alleviated with ASA 324mg. He also noted alleviation
with deep respiration. He was unsure if chest pain was affected
by positioning. 

Of note, patient has a history of CAD for which he had 5 stents
placed in ___ at ___. At that time, he was
experiencing a similar type of chest pressure and had also
endorsed palpitations. As per the patient, he was found to be in
atrial fibrillation and completed a 1 month course of 
metoprolol,
stopped by his cardiologist when his atrial fibrillation did not
recur. He ultimately underwent cardiac catheterization, for 
which
he had the 5 stents placed.

He denied any recurrence of the chest pain until approximately
___. He is very active, working out at ___ on the elliptical daily, able to get his heart rate up 
to
130s. He noted in ___ a similar chest pressure when
exercising, alleviated by cessation of exercise. This would last
a few seconds and would abate when his HRs downtrended to ___. 
He
said he mentioned this to his PCP in ___ and was reportedly
going to schedule a stress test, though was unable to do so.

These exertional episodes have become more frequent over the 
past
few months, now occurring every time his HR rises above 90. He
has not experienced any chest pain at rest until the evening
prior to admission, for which he ultimately presented to ___.

At ___, he had troponin performed that was negative with
EKG demonstrating RBBB (unclear if new). Labs at ___ were
notable for WBC 8.1, BUN 24, CR 1.45, troponin <0.01, pro-BNP 
69.
He was ultimately transferred to ___ for further evaluation. 

In the ED initial vitals were:  T97.1, HR 69, BP 151/104, RR16,
POx 100% RA
Exam notable for: RRR, -m/r/g, no JVD. Lungs CTA b/l, no ___

EKG:  R60, NSR, RBBB, TWI III, avF, PR 210

Labs/studies notable for: Troponin <0.01 x2, Cr 1.4, Hgb 13.4  
Patient was given:  N/A
Vitals on transfer: HR 66, BP 158/92, RR 18, POx 99% RA 

On the floor, patient is currently chest pain free. He denies 
any
shortness of breath or palpitations. 

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of paroxysmal
nocturnal dyspnea, orthopnea, ankle edema, syncope, or
presyncope.  He does note ___ lb weight gain over the past 3
months despite trying to maintain a healthy diet and exercise.

On further review of systems, denies fevers or chills. Denies 
any
prior history of stroke, TIA, deep venous thrombosis, pulmonary
embolism, bleeding at the time of surgery, myalgias, joint 
pains,
cough, hemoptysis, black stools or red stools. Denies exertional
buttock or calf pain. All of the other review of systems were
negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Previous tobacco use  
2. CARDIAC HISTORY  
- CAD s/p 5 stents ___
- Sinus rhythm. As per patient, previous history of afib.  
3. OTHER PAST MEDICAL HISTORY  
- None

HOME MEDICATIONS:  
The Preadmission Medication list is accurate and complete
1. Aspirin 325 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Multivitamins 1 TAB PO DAILY
 
Social History:
___
Family History:
Father: MI at ___
___ Grandfather: MI in ___
Mother: CAD
 
Physical ___:
ADMISSION PHYSICAL EXAM:
=========================
VS: T97.4 BP 157/86 HR 57 RR 18 O2 SAT 99% RA
GENERAL: Well developed, well nourished male in NAD. Oriented 
x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not elevated  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM:
=========================
24 HR Data (last updated ___ @ 708)
    Temp: 97.6 (Tm 98.7), BP: 113/74 (108-125/65-86), HR: 62
(58-71), RR: 19 (___), O2 sat: 97% (97-99), O2 delivery: Ra  
GENERAL: Well developed, well nourished male in NAD. Oriented 
x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP not elevated  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS:
====================
___ 04:30AM BLOOD WBC-7.8 RBC-4.31* Hgb-12.7* Hct-37.7* 
MCV-88 MCH-29.5 MCHC-33.7 RDW-12.8 RDWSD-41.1 Plt ___
___ 04:30AM BLOOD Neuts-36.9 ___ Monos-9.9 
Eos-10.4* Baso-0.6 Im ___ AbsNeut-2.87 AbsLymp-3.25 
AbsMono-0.77 AbsEos-0.81* AbsBaso-0.05
___ 04:30AM BLOOD Plt ___
___ 04:30AM BLOOD Glucose-93 UreaN-25* Creat-1.4* Na-142 
K-3.9 Cl-105 HCO3-25 AnGap-12
___ 04:30AM BLOOD proBNP-57
___ 04:30AM BLOOD cTropnT-<0.01
___ 08:21AM BLOOD cTropnT-<0.01
___ 04:30AM BLOOD Calcium-9.1 Phos-2.8 Mg-2.1

KEY INTERVAL LABS:
=====================
___ 06:42AM BLOOD %HbA1c-5.3 eAG-105
___ 06:42AM BLOOD Triglyc-186* HDL-38* CHOL/HD-5.6 
LDLcalc-137*

KEY IMAGING/PROCEDURES:
=========================
___ CXR: No acute intrathoracic process.  Mild cardiomegaly.

___ TTE: The left atrial volume index is normal. The right 
atrium is mildly enlarged. The estimated right atrialpressure is 
___ mmHg. There is normal left ventricular wall thickness with a 
normal cavity size. There is
normal regional and global left ventricular systolic 
function.Quantitative biplane left ventricularejection fraction 
is 59 %. Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no restingleft ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion.Tricuspid annular plane systolic excursion (TAPSE) 
is normal. The aortic sinus diameter is normal forgender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aorticvalve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
no aorticregurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There 
istrivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is physiologictricuspid 
regurgitation. The estimated pulmonary artery systolic pressure 
is high normal. There is no
pericardial effusion.
IMPRESSION: Normal biventricular cavity sizes and 
regional/global biventricular systolicfunction. No valvular 
pathology or pathologic flow identified. High normal estimated 
pulmonaryartery systolic pressure.

___ Cardiac Catheterization:
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is a 40% stenosis in the 
proximal segment.
The Septal Perforator, arising from the proximal segment, is a 
small caliber vessel. The Diagonal, arising from the proximal 
segment, is a medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. There is a 95% stenosis in the proximal segment.
Name: ___ MRN: ___ Study Date: ___ 9:27:00 p. 
___
The ___ Obtuse Marginal, arising from the proximal segment, is a 
medium caliber vessel.
The ___ Obtuse Marginal, arising from the mid segment, is a 
medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a 100% stenosis in the proximal 
segment.
The Acute Marginal, arising from the proximal segment, is a 
small caliber vessel. The Right Posterolateral Artery, arising 
from the distal segment, is a medium caliber vessel. Heavy 
collaterals from the distal segment of the Cx connect to the 
proximal segment. Heavy collaterals from
the distal segment of the LAD connect to the distal segment.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.

DISCHARGE LABS:
================
___ 07:09AM BLOOD WBC-6.5 RBC-4.68 Hgb-13.6* Hct-41.4 
MCV-89 MCH-29.1 MCHC-32.9 RDW-12.9 RDWSD-42.0 Plt ___
___ 07:09AM BLOOD Plt ___
___ 07:09AM BLOOD Glucose-87 UreaN-22* Creat-1.2 Na-143 
K-4.4 Cl-106 HCO3-25 AnGap-12
___ 07:09AM BLOOD Calcium-9.5 Phos-3.1 Mg-2.___ year old with prior STEMI and known CAD, prior stents in ___ 
for stable angina presented for exertional chest pain to ___ 
___. He was transferred for catheterization due to some 
concern for rest pain ACS. Troponins were negative and EKG was 
non-specific. Chest pain free at rest. Taken for coronary 
angiography ___, revealing two vessel CAD. There was 95% 
stenosis of pLCX and which was stented with 3.25 mm x 16 mm 
Xience DES. RCA had CTO of proximal segment, with heavy 
collaterals from LAD. There was 40% pLAD stenosis. Plan for 
lifelong aspirin and 3 months of Plavix. Additionally patient 
was started on high potency statin and metoprolol 25 mg XL. 

# CKD: Cr on arrival was 1.4, discharge was 1.2. 

TRANSITIONAL ISSUES:

[ ] Patient would benefit from initiation of ___ for CAD 
and CKD as an outpatient. 
[ ] If develops chest pain, can consider possible FFR +/- 
stenting of LAD lesion. 
[ ] Would benefit from initiation of long acting nitrate (IMDUR) 
if persistent exertional CP.
[ ] Uptitrate metoprolol as tolerated limited by asymptomatic 
bradycardia as an outpatient). 
[ ] Will need echocardiogram as an outpatient. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
3.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
Do not take with Viagra.  
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually PRN Disp #*30 
Tablet Refills:*1 
4.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*3 
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*3 
6.  Multivitamins 1 TAB PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Chest pain
# Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

WHY WERE YOU ADMITTED TO THE HOSPITAL?
- you were admitted with chest pain concerning for angina. 

WHA WAS DONE FOR YOU IN THE HOSPITAL?
- You were taken for a cardiac catheterization, where we found 
multiple obstructions of the arteries supplying you heart. The 
one that was most significant and thought likely to be causing 
symptoms was stented open. 
- You were started on new medications to help prevent the stent 
from clotting (which would cause an acute heart attack) and to 
prevent/delay further worsening blockages in the arteries 
supplying your heart. 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Take all of your medications as prescribed.
- It is incredibly important that you do not miss any doses of 
the aspirin or Plavix. You will be on Plavix for 3 months. 
- Weigh yourself daily, if you gain more than 2 pounds and 
develop swelling in your legs, it is important to call your 
cardiologist.

It was a pleasure taking care of you!

Sincerely,
your ___ cardiology team. 

 
Followup Instructions:
___